US05532367
A stirring solution of 5.7 grams (0.020 mole) of 3-acetoxy-7-bromo-2,3-dihydro-2,2-dimethylbenzofuran in 150 mL of tetrahydrofuran is cooled to -80° C., and 18.2 mL of n-butyllithium in hexanes (2.5 Molar-0.046 mole) is added dropwise during a 15 minute period, while maintaining the reaction mixture temperature at about -80° C. Upon completion of the addition, the reaction mixture is stirred at -80° C. for 15 minutes. After this time, 6.9 mL (0.061 mole) of trimethyl borate is added during a 1 minute period. The reaction mixture is then allowed to warm slowly to ambient temperature during a 3 hour period, where it is stirred for an additional 1 hour. After this time, the reaction mixture is concentrated under reduced pressure to a volume of about 50 mL. The concentrate is then poured into 500 mL of ice-water. The mixture is then made acidic with about 26 mL of aqueous 2N hydrochloric acid. The mixture is filtered, yielding 2,3-dihydro-3-hydroxy-2,2-dimethylbenzofuran-7-ylboronic acid.

reactant | 3-acetoxy-7-bromo-2,3-dihydro-2,2-dimethylbenzofuran | 0.020 mole, 5.7 grams | C(C)(=O)OC1C(OC2=C1C=CC=C2Br)(C)C | C12H13BrO3
reactant | n-butyllithium | 18.2 mL | C(CCC)[Li]
reactant | trimethyl borate | 0.061 mole, 6.9 mL | B(OC)(OC)OC | C3H9BO3
solvent | tetrahydrofuran | 150 mL | O1CCCC1 | C4H8O
product | 2,3-dihydro-3-hydroxy-2,2-dimethylbenzofuran-7-ylboronic acid | OC1C(OC2=C1C=CC=C2B(O)O)(C)C | C10H13BO4
